US07037935B2
In an analogous manner to that described in Example 24f), the condensation of the (R)-5-oxo-1-[4-(2,4,6-trifluoro-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid with methylamine using HBTU as the condensation agent yields the (R)-5-Oxo-1-[4-(2,4,6-Trifluoro-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid methylamide as a white solid. MS: m/e=379 (M+H)+.

reactant | (R)-5-oxo-1-[4-(2,4,6-trifluoro-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid | O=C1C[C@H](CN1C1=CC=C(C=C1)OCC1=C(C=C(C=C1F)F)F)C(=O)O | C18H14F3NO4
reactant | methylamine | CN | CH5N
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | (R)-5-Oxo-1-[4-(2,4,6-Trifluoro-benzyloxy)-phenyl]-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=C(C=C(C=C1F)F)F | C19H17F3N2O3
